US05834494
5-Phenyl Indole (D29)
The title compound was prepared from 5-bromoindole and benzeneboronic acid by the method of Suzuki (N. Miyaura, T Yanagi, A Suzuki, Synth. Commun, 1981, 513) in 87% yield.

reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | benzeneboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 5-Phenyl Indole | 87% yield | C1(=CC=CC=C1)C=1C=C2C=CNC2=CC1 | C14H11N
